// MLEF model consists of two microstrip lines

ahdl_include "../veriloga/MLIN.va"
ahdl_include "../veriloga/MOPEN.va"

subckt MLEF p1
parameters w=1m l=100m dispmodel="Kirschning" subst="MSub1"
+ er=9.8 h=1m t=18u tand=2e-4 rho=2.2e-10 d=1.5e-7

TL1 p1 p2 MLIN l=l w=w subst=subst er=er h=h t=t tand=tand rho=rho d=d
TL2 p2 MOPEN w=w subst=subst er=er h=h t=t tand=tand rho=rho d=d


ends


